US06218538B1
4-Chlorobenzamidine Monohydrochloride
To a solution of 4-chlorobenzonitrile (5.0 g) in methanol (40 ml) was added sodium methoxide (0.20 g) and the reaction was stirred at room temperature for 3 days. Ammonium chloride (1.94 g) was added and the reaction was stirred overnight. The reaction was filtered and the filtrate concentrated to an oil. After the addition of ether the off-white precipitate was collected and dried to give the title compound (3.62 g). Electrospray MS m/z 155 [M+H]+.

reactant | 4-chlorobenzonitrile | 5.0 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | sodium methoxide | 0.20 g | C[O-].[Na+]
reactant | Ammonium chloride | 1.94 g | [Cl-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-Chlorobenzamidine Monohydrochloride | 3.62 g | Cl.ClC1=CC=C(C(=N)N)C=C1 | InChI=1S/C7H7ClN2.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H3,9,10);1H
